US08748627B2
2-[(1R)-1-methylprop-2-ynyl]-1H-isoindole-1,3(2H)-dione
To a solution of S-(−)-propargyl-2-ol (2.5 g, 0.035 mol), phthalimide (5.4 g, 0.037 mol) and triphenylphosphine (14.1 g, 0.055 mol) in tetrahydrofuran was added a solution of diethyl azodicarboxylate (24.9 mL, 0.055 mol) in toluene at 0° C. drop wise. Then the reaction mixture was stirred at room temperature for 3 hours. The solvent was removed and the residue was dissolved in ether and stored in freezer overnight. The solution was filtered and the filtrate was concentrated and purified on silica gel (5˜30% ethyl acetate in hexane) to give 4.15 g of the title compound (60% yield). 1H NMR (500 MHz, CDCl3) δ ppm 1.72 (d, J=7.32 Hz, 6H) 2.35 (d, J=2.44 Hz, 1H) 5.18-5.25 (m, 1H) 7.70-7.75 (m, 2H) 7.83-7.89 (m, 2H). MS (ESI) m/z 232.0 (M+33)+.

reactant | phthalimide | 0.037 mol, 5.4 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 0.055 mol, 14.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.055 mol, 24.9 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[(1R)-1-methylprop-2-ynyl]-1H-isoindole-1,3(2H)-dione | 4.15 g, 60% yield | C[C@H](C#C)N1C(C2=CC=CC=C2C1=O)=O | C12H9NO2
